US07846956B2
2.86 g of methyl 3-hydroxyisoxazole-5-carboxylate was dissolved in 10 ml of N,N-dimethylformamide, and 4.25 g of methyl iodide and 4.15 g of potassium carbonate were then added under ice-cooling. The mixture was stirred at room temperature overnight. The reaction mixture was added to 0.1 M hydrochloric acid and then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 2.23 g of methyl 3-methoxyisoxazole-5-carboxylate.

reactant | methyl 3-hydroxyisoxazole-5-carboxylate | 2.86 g | OC1=NOC(=C1)C(=O)OC | C5H5NO4
reactant | methyl iodide | 4.25 g | CI | CH3I
reactant | potassium carbonate | 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 0.1 M | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl 3-methoxyisoxazole-5-carboxylate | 2.23 g | COC1=NOC(=C1)C(=O)OC | C6H7NO4
